US05569655
To a suspension of methoxy-methylamine hydrochloride (2.3 g, 23.6 mmol) in 30 ml of dichloroethane at 0° C. was added dropwise 11.8 ml (23.6 mmol) of trimethylaluminum. The mixture was stirred at 0° C. for 20 min, methyl 4-oxazolecarboxylate (1 g, 7.9 mmol) in 20 ml of dichloroethane was added in one portion. The mixture was poured into an ice-cold solution of 0.5N HCl/methylene chloride (2:1) and stirred for 10 min. The aqueous layer was extracted with methylene chloride (2×50 ml), and the combined organic layer was washed with saturated ammonium chloride solution, dried over sodium sulfate, and concentrated in vacuo. The resulting residue was purified by chromatography on silica (methylene chloride/ethyl acetate/methanol 6:3:1) to afford 1.0 g (81.9%) of 4-oxazolyl-N-methyl-N-methoxy-carboxamide.

reactant | methoxy-methylamine hydrochloride | 23.6 mmol, 2.3 g | Cl.CONC
reactant | trimethylaluminum | 23.6 mmol, 11.8 ml | C[Al](C)C
reactant | methyl 4-oxazolecarboxylate | 7.9 mmol, 1 g | O1C=NC(=C1)C(=O)OC | C5H5NO3
reactant | HCl methylene chloride | 0.5N | Cl.C(Cl)Cl
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 4-oxazolyl-N-methyl-N-methoxy-carboxamide | 1.0 g, 81.9% | O1C=NC(=C1)C(=O)N(OC)C | C6H8N2O3
